2118-08-31 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:  Mostly in sinus rhythm with prolonged PR interval,
   frequent PACs and rare PVCs.  Long run of symptomatic VT at 22:23 on
   tele which converted back to SR w/o ICD firing.  5 beats of NSVT at
   2300.  Right groin hematoma stable.  On heparin gtt and Coumadin.  He
   is very anxious and is concerned that he will go back into VT and get
   shocked.  He had difficulty sleeping and required Ambien, Ativan, and
   clonazepam.
   Allergies:
   Monosodium Glutamate
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Lidocaine - 2 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-8-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-8-31**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 59 (59 - 77) bpm
   BP: 116/63(78) {102/60(74) - 127/70(86)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 74 Inch
             Total In:
                                                                    906 mL
                                                                    788 mL
   PO:
                                                                    720 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    186 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    610 mL
   Urine:
                                                                    600 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD, appears comfortable. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 5 cm.
   CARDIAC: PMI displaced laterally, located in 5th intercostal space. S1
   & S2 irregular with a blowing systolic murmur heard best at apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NT/ND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. Right thigh hematoma at cath site with borders
   demarcated in marker, no hematoma or bruit of left thigh.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT by Doppler
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT by Doppler
   Labs / Radiology
   272 K/uL
   12.8 g/dL
   107 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   16 mg/dL
   106 mEq/L
   134 mEq/L
   36.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2118-8-31**]  04:30 AM
   WBC
   11.7
   Hct
   36.5
   Plt
   272
   Cr
   1.1
   Glucose
   107
   Other labs: PT / PTT / INR:20.7/62.0/1.9, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   59 yo M x-fer from CMC w/ repeated episodes of VT resulting in multiple
   ICD firings, s/p EPS with successful ablation of some but not all foci
   requiring multiple defibrillations during procedure, now on lidocaine
   ggt and amiodarone.
   .
   # Ventricular tachycardia: The patient has a [**1-28**] year history of NSVT
   with Sustained Ventricular tachycardia episodes and is s/p ICD
   placement. He was transferred from CMC after an unsuccessful ablation
   ([**8-24**]) and unsuccessful initiation of sotalol to control his rate.
   Initially was on lidocaine ggt, EP wanted drip off for study, but pt
   went back into VT, so drip was restarted. [**8-30**] he received 200mg
   lidocaine at 4- 50mg boluses with rate of ggt increased from 1mg/min to
   2mg/min. There are two distinct morphologies of his arrythmia, likely
   one coming from lateral ventricle and one from mitral valve area (he
   has MVP and MS [**First Name (Titles) **] [**Last Name (Titles) **]).
   - EPS [**8-30**] was performed by Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) **] with
   successful ablation of some but not all foci, patient required
   defibrillation several times during procedure
   - Had a run of symptomatic sustained VT which broke on its own without
   defibrillation
   - Heparin drip with bridge to Coumadin
   - Continue Metoprolol 50mg PO BID
   - Continue lidocaine drip at 2mg/min and amiodarone 400mg TID
   - Hold home verapamil
   - Telemetry
   - Nitro prn chest pain
   - Maintain K>4, Mg>2
   - Obtain 12 lead EKG if he goes back into VT
   .
   Anemia:  dropped hematocrit from 44 to 36.5, will re-check hct at 1300
   .
   # Atrial Fibrillation: The patient has rate controlled atrial
   fibrillation and is currently on a heparin drip. Heparin drip stopped
   at 10am [**8-30**] for EPS, but continued after study.
   - Continue Metoprolol 50mg PO BID
   - Continue Heparin gtt goal PTT 60-100 (per nomogram)
   - Coumadin restarted after EPS
   - consider ECHO tomorrow
   .
   # Hyperlipidemia- The patient has hyperlipidemia but no evidence of
   coronary artery disease. He has not been on aspirin because of his
   warfarin dosing.
   - Consider starting aspirin this hospitalization
   - Continue Simvastatin
   .
   # Hypertropic cardiomyopathy- As per recent [**Month/Year (2) **], preserved EF= 55-60%
   and no signs of failure.
   - Continue Metoprolol
   .
   # Acute Renal Failure: etiology likely due to arrhythmia. Cr was 1.4 at
   OSH, 1.1 at admission, 1.2 on [**8-30**]. Urine lytes ordered, FeNa=0.6,
   indicating pre-renal failure likely [**2-28**] volume depletion.
   - recheck Cr in AM
   - Monitor UOP
   .
   # Depression/Anxiety:
   - Continue Effexor 75mg PO Daily (although this drug does prolong Qt
   interval)
   - Continue Clonazepam 0.5mg PO TID PRN
   - Ambien prn Sleep
   .
   FEN: Cardiac Diet
   ACCESS: 2 PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with Tylenol, Fentanyl prn
   -Bowel regimen with Colace, Senna PRN
   -Famotidine
   CODE: Full
   CONTACT: [**First Name8 (NamePattern2) 31**] [**Known lastname 9222**] [**Telephone/Fax (1) 9227**]; [**Name (NI) 815**] [**Name (NI) 9228**] (Girlfriend)
   [**Telephone/Fax (1) 9229**]
   DISPO: CCU
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-8-30**] 06:33 PM
   18 Gauge - [**2118-8-30**] 06:34 PM
   22 Gauge - [**2118-8-30**] 06:35 PM
   20 Gauge - [**2118-8-31**] 02:00 AM
   Prophylaxis:
   DVT: heparin IV, Coumadin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: patient and son [**Name (NI) 31**]
   [**Name (NI) 36**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight post ablation course and events.
   Continues to have VT recurrences though one of the VT
s is slower.
   Pt on I/V lido and amiodarone,not loaded.
   Examined Pt and spoke to him at length.
   Will continue present Rx.
   Spent 50 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2118-8-31**] 13:52 ------

2118-09-01 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient had symptomatic sustained polymorphic VT with a rate in the
   130s yesterday morning.  He was treated with 100 mg Lidocaine bolus
   with no effect and 300 mg amiodarone bolus.  His Lopressor was changed
   to 50mg TID from [**Hospital1 7**].  EP evaluated ICD and changed overdrive pace rate
   to 125.  He remains very anxious about his heart rhythm.  Home CPAP
   started last night for OSA.
   Allergies:
   Monosodium Glutamate
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 62 (45 - 135) bpm
   BP: 127/75(89) {78/57(73) - 134/85(99)} mmHg
   RR: 20 (8 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  2,459 mL
                                                                    309 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                  1,139 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    985 mL
   Urine:
                                                                  1,880 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    579 mL
                                                                   -676 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD, appears comfortable. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 5 cm.
   CARDIAC: PMI displaced laterally, located in 5th intercostal space. S1
   & S2 irregular with a blowing systolic murmur heard best at apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NT/ND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. Right thigh hematoma at cath site with borders
   demarcated in marker, no hematoma or bruit of left thigh.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Labs / Radiology
   274 K/uL
   11.6 g/dL
   111 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   136 mEq/L
   33.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2118-8-31**]  04:30 AM
                             [**2118-8-31**]  01:32 PM
                             [**2118-9-1**]  04:12 AM
   WBC
   11.7
   12.4
   Hct
   36.5
   36.0
   33.0
   Plt
   272
   274
   Cr
   1.1
   1.0
   Glucose
   107
   111
   Other labs: PT / PTT / INR:23.5/88.4/2.2, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   59 yo M x-fer from CMC w/ repeated episodes of VT resulting in multiple
   ICD firings, s/p EPS with successful ablation of one VT focus, but not
   all foci requiring multiple defibrillations during procedure, now on
   lidocaine ggt and amiodarone.
   .
   # Ventricular tachycardia: The patient has a [**1-28**] year history of NSVT
   with Sustained Ventricular tachycardia episodes and is s/p ICD
   placement. He was transferred from CMC after an unsuccessful ablation
   ([**8-24**]) and unsuccessful initiation of sotalol to control his rate.
   Initially was on lidocaine ggt, EP wanted drip off for study, but pt
   went back into VT, so drip was restarted. [**8-30**] he received 200mg
   lidocaine at 4- 50mg boluses with rate of ggt increased from 1mg/min to
   2mg/min. There are two distinct morphologies of his arrythmia, likely
   one coming from lateral ventricle and one from mitral valve area (he
   has MVP and MS [**First Name (Titles) **] [**Last Name (Titles) **]).
   - Stop lidocaine drip today
   - EPS [**8-30**] was performed by Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) **] with
   successful ablation of one but not all foci, patient required
   defibrillation several times during procedure
   - Had a run of symptomatic sustained VT following the procedure and
   another run the AM of [**8-31**] which broke on its own without defibrillation
   - Restart on home coumadin.  D/C heparin gtt
   - Increase Metoprolol to 75mg PO TID up from 50mg PO TID
   - Continue amiodarone 400mg TID
   - Hold home verapamil
   - Telemetry
   - Nitro prn chest pain
   - Maintain K>4, Mg>2
   - Obtain 12 lead EKG if he goes back into VT
   .
   # Anemia:  Hematocrit continues to drop from 44 on admission to 33
   -Likely hemodilution.  Will re-check hct at 1300
   .
   # Atrial Fibrillation: The patient has rate controlled atrial
   fibrillation and is currently on a heparin drip. Heparin drip stopped
   at 10am [**8-30**] for EPS, but continued after study.
   - Increase Metoprolol to 75mg PO TID
   - Will stop the heparin gtt today and restart patient
s coumadin (on
   home dose)
   .
   #OSA- restarted on home CPAP
   .
   # Hyperlipidemia- The patient has hyperlipidemia but no evidence of
   coronary artery disease. He has not been on aspirin because of his
   warfarin dosing.
   - Consider starting aspirin this hospitalization once anemia resolves
   - Continue Simvastatin
   .
   # Hypertropic cardiomyopathy- As per recent [**Month/Year (2) **], preserved EF= 55-60%
   and no signs of failure.
   - Continue Metoprolol
   .
   # Acute Renal Failure: etiology likely due to arrhythmia. Cr was 1.4 at
   OSH, 1.1 at admission, 1.2 on [**8-30**]. Urine lytes ordered, FeNa=0.6,
   indicating pre-renal failure likely [**2-28**] volume depletion.
   - Cr now down to 1
   - Monitor UOP
   .
   # Depression/Anxiety:
   - Continue Effexor 75mg PO Daily (although this drug does prolong Qt
   interval)
   - Continue Clonazepam 0.5mg PO TID PRN
   - Ambien prn Sleep
   .
   FEN: Cardiac Diet
   ACCESS: 2 PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with Tylenol, Fentanyl prn
   -Bowel regimen with Colace, Senna, MIralax
   -Famotidine
   CODE: Full
   CONTACT: [**First Name8 (NamePattern2) 31**] [**Known lastname 9222**] [**Telephone/Fax (1) 9227**]; [**Name (NI) 815**] [**Name (NI) 9228**] (Girlfriend)
   [**Telephone/Fax (1) 9229**]
   DISPO: CCU
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-8-30**] 06:33 PM
   18 Gauge - [**2118-8-30**] 06:34 PM
   22 Gauge - [**2118-8-30**] 06:35 PM
   20 Gauge - [**2118-8-31**] 02:00 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: patient and son [**Name (NI) 31**]
   [**Name (NI) 36**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Agree with Dr.[**Last Name (STitle) 9263**]
s not.
   Reviewed data and examined Pt
   [**Name (NI) **] remained VT free overnight.
   Await Echo findings.
   Spent 40 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2118-9-1**] 13:19 ------

2118-09-02 04:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hct stable, lido d/c'ed, blood cx x 1 ordered
   S: Pt slept well, no complaints overnight. No CP, dizziness or SOB on
   ambulation. Tolerating PO. Had BM brown, soft, no visible blood.
   Allergies:
   Monosodium Glutamate
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-2**] 04:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 52 (41 - 69) bpm
   BP: 91/45(55) {82/34(51) - 124/108(111)} mmHg
   RR: 21 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.8 kg (admission): 92.7 kg
   Height: 74 Inch
                  Total In:
                                                                  1,048 mL
                  PO:
                                                                    660 mL
                  TF:
   IVF:
                                                                    388 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                      0 mL
   Urine:
                                                                  1,805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -757 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: Pleasant gentleman in NAD, appears comfortable. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  No lympthadenopathy
   NECK: Supple with JVP of 5 cm.
   CARDIAC: PMI displaced laterally, located in 5th intercostal space. S1
   & S2 regular rate  with a blowing systolic murmur heard best at apex.
   No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NT/ND. No HSM or tenderness. BS present in all
   quadrants
   EXTREMITIES: No c/c/e. Right thigh hematoma at cath site. Nontender, no
   fluctuation.  no hematoma or bruit of left thigh.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Labs / Radiology
   274 K/uL
   11.6 g/dL
   111 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   136 mEq/L
   35.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2118-8-31**]  04:30 AM
                             [**2118-8-31**]  01:32 PM
                             [**2118-9-1**]  04:12 AM
                             [**2118-9-1**]  11:59 AM
   WBC
   11.7
   12.4
   Hct
   36.5
   36.0
   33.0
   35.6
   Plt
   272
   274
   Cr
   1.1
   1.0
   Glucose
   107
   111
   Other labs: PT / PTT / INR:23.5/88.4/2.2, LDH:260 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 VENTRICULAR TACHYCARDIA, SUSTAINED
   59 yo M x-fer from CMC w/ repeated episodes of VT resulting in multiple
   ICD firings, s/p EPS with successful ablation of one VT focus, but not
   all foci requiring multiple defibrillations during procedure, initially
   on lidocaine ggt and amiodarone, now just on amiodarone.
   .
   # Ventricular tachycardia: The patient has a [**1-28**] year history of NSVT
   with Sustained Ventricular tachycardia episodes and is s/p ICD
   placement. He was transferred from CMC after an unsuccessful ablation
   ([**8-24**]) and unsuccessful initiation of sotalol to control his rate.
   Initially was on lidocaine ggt, EP wanted drip off for study, but pt
   went back into VT, so drip was restarted. [**8-30**] he received 200mg
   lidocaine at 4- 50mg boluses with rate of ggt increased from 1mg/min to
   2mg/min, currently off. There are two distinct morphologies of his
   arrythmia, likely one coming from lateral ventricle and one from mitral
   valve area (he has MVP and MS [**First Name (Titles) **] [**Last Name (Titles) **]).
   - lidocaine drip stopped [**2118-8-31**]
   - EPS [**8-30**] was performed by Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) **] with
   successful ablation of one but not all foci, patient required
   defibrillation several times during procedure
   - Had a run of symptomatic sustained VT following the procedure and
   another run the AM of [**8-31**] which broke on its own without defibrillation
   - Restarted on 3 mg coumadin.  D/C
ed heparin gtt.  INR 1.8 this AM, so
   will need to start heparin IV as bridge to Coumadin 5mg this AM
   - Metoprolol was increased to 75mg PO TID [**2118-9-1**]
   - Continue amiodarone 400mg TID taper to 400mg [**Hospital1 7**] after one week at
   TID
   - Hold home verapamil
   - Telemetry
   - Nitro prn chest pain
   - Maintain K>4, Mg>2
   - Obtain 12 lead EKG if he goes back into VT
   .
   # Anemia:  Hematocrit initially dropped from 44 on admission to 33
   -Likely hemodilution.  Repeat Hct stable at 33.4
   -Haptoglobin of 251 which does not support a hemolysis
   - stool guaiac negative
   .
   # Atrial Fibrillation: The patient has defibrillated back into sinus
   rhythm and will be started on heparin SC with bridge to Coumadin.  Will
   change coumadin dose to 5mg today as INR was subtherapeutic at 1.8 this
   AM.
   - Cont metoprolol at 75mg PO TID
   - heparin IV-> coumadin 5mg
   .
   #OSA- restarted on home CPAP
   -Pt states the mask is uncomfortable but the one at home is a better
   fit. Pt was explained the benefits of using his CPAP continuously
   .
   # Hyperlipidemia- The patient has hyperlipidemia but no evidence of
   coronary artery disease. He has not been on aspirin because of his
   warfarin dosing.
   - Continue Simvastatin
   .
   # Hypertropic cardiomyopathy- As per recent [**Hospital1 **], preserved EF= 55-60%
   and no signs of failure.
   - Continue Metoprolol
   .
   # Acute Renal Failure: etiology likely due to arrhythmia. Cr was 1.4 at
   OSH, 1.1 at admission, 1.2 on [**8-30**]. Urine lytes ordered, FeNa=0.6,
   indicating pre-renal failure likely [**2-28**] volume depletion.
   - Cr now down to 1
   - Monitor UOP
   -Pt is urinating well
   .
   # Depression/Anxiety:
   - Continue Effexor 75mg PO Daily (although this drug does prolong Qt
   interval)
   - Continue Clonazepam 0.5mg PO TID PRN
   - Ambien prn Sleep
   .
   FEN: Cardiac Diet
   ACCESS: 2 PIV's
   PROPHYLAXIS:
   -DVT ppx with coumadin/ heparin SC
   -Pain management with Tylenol, Fentanyl prn
   -Bowel regimen with Colace, Senna, MIralax
   -Famotidine
   CODE: Full
   CONTACT: [**First Name8 (NamePattern2) 31**] [**Known lastname 9222**] [**Telephone/Fax (1) 9227**]; [**Name (NI) 815**] [**Name (NI) 9228**] (Girlfriend)
   [**Telephone/Fax (1) 9229**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-8-30**] 06:34 PM
   20 Gauge - [**2118-8-31**] 02:00 AM
   Prophylaxis:
   DVT: heparin IV/coumadin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor
   ------ Protected Section ------
   Attending
s Note.
   Agree with Dr. [**Last Name (STitle) 8445**]
s Note.Reviewed data and examined Pt.
   Much better,can be transferred to floor.
   Spent 40 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2118-9-2**] 10:14 ------

2118-09-03 03:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient began to have ectopic rhythm on tele yesterday morning which
   continued throughout the day.  Looks like Afib with polymorphic VT.  He
   is asymptomatic and feeling well.  Diltiazem 30mg QID was started as
   well as increased metoprolol.
   Allergies:
   Monosodium Glutamate
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-3**] 03:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 55 (54 - 86) bpm
   BP: 104/65(73) {80/31(49) - 122/80(83)} mmHg
   RR: 21 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 93.1 kg (admission): 92.7 kg
   Height: 74 Inch
             Total In:
                                                                  1,004 mL
                                                                     62 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    284 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                      0 mL
   Urine:
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD, appears comfortable. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  No lympthadenopathy
   NECK: Supple with JVP of 5 cm.
   CARDIAC: PMI displaced laterally, located in 5th intercostal space. S1
   & S2 regular rate  with a blowing systolic murmur heard best at apex.
   No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NT/ND. No HSM or tenderness. BS present in all
   quadrants
   EXTREMITIES: No c/c/e. Right thigh hematoma at cath site. Nontender, no
   fluctuation.  no hematoma or bruit of left thigh.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Labs / Radiology
   246 K/uL
   11.1 g/dL
   111 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.0 mEq/L
   17 mg/dL
   105 mEq/L
   141 mEq/L
   33.4 %
   9.5 K/uL
        [image002.jpg]
                             [**2118-8-31**]  04:30 AM
                             [**2118-8-31**]  01:32 PM
                             [**2118-9-1**]  04:12 AM
                             [**2118-9-1**]  11:59 AM
                             [**2118-9-2**]  06:12 AM
                             [**2118-9-2**]  04:38 PM
   WBC
   11.7
   12.4
   9.5
   Hct
   36.5
   36.0
   33.0
   35.6
   33.4
   Plt
   272
   274
   246
   Cr
   1.1
   1.0
   1.3
   1.2
   Glucose
   107
   111
   87
   111
   Other labs: PT / PTT / INR:18.6/88.2/1.7, LDH:260 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   59 yo M x-fer from CMC w/ repeated episodes of VT resulting in multiple
   ICD firings, s/p EPS with successful ablation of one VT focus, but not
   all foci requiring multiple defibrillations during procedure, initially
   on lidocaine ggt and amiodarone, now just on amiodarone.
   .
   # Ventricular tachycardia: The patient has a [**1-28**] year history of NSVT
   with Sustained Ventricular tachycardia episodes and is s/p ICD
   placement. He was transferred from CMC after an unsuccessful ablation
   ([**8-24**]) and unsuccessful initiation of sotalol to control his rate.
   Initially was on lidocaine ggt, EP wanted drip off for study, but pt
   went back into VT, so drip was restarted. [**8-30**] he received 200mg
   lidocaine at 4- 50mg boluses with rate of ggt increased from 1mg/min to
   2mg/min, currently off. There are two distinct morphologies of his
   arrythmia, likely one coming from lateral ventricle and one from mitral
   valve area (he has MVP and MS [**First Name (Titles) **] [**Last Name (Titles) **]).
   - lidocaine drip stopped [**2118-8-31**]
   - EPS [**8-30**] was performed by Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) **] with
   successful ablation of one but not all foci, patient required
   defibrillation several times during procedure
   - Had a run of symptomatic sustained VT following the procedure and
   another run the AM of [**8-31**] which broke on its own without defibrillation
   - Went back into A fib yesterday which triggered some non-sustained
   polymorphic VT
   - INR =1.7 this AM, so will need to start heparin IV gtt as bridge to
   Coumadin 5mg.
   - Metoprolol was increased to 75mg PO TID [**2118-9-1**], Diltiazem 30mg QID
   started on [**9-2**]
   - Aggressive magnesium repletion
   - Continue amiodarone 400mg TID taper to 400mg [**Hospital1 7**] after one week at
   TID
   - Hold home verapamil
   - Telemetry
   - Nitro prn chest pain
   - Maintain K>4, Mg>2
   - Obtain 12 lead EKG if he goes back into VT
   .
   # Anemia:  Hematocrit initially dropped from 44 on admission to 33
   -Likely hemodilution.  Repeat Hct this AM is 35.
   -Haptoglobin of 251 which does not support a hemolysis
   - stool guaiac negative
   .
   # Atrial Fibrillation: The patient has defibrillated back into sinus
   rhythm and will be started on heparin IV gtt with bridge to Coumadin.
   Will change coumadin dose to 5mg today as INR was subtherapeutic at 1.7
   this AM.
   - Cont metoprolol at 75mg PO TID
   - heparin IV-> coumadin 5mg
   .
   #OSA- restarted on home CPAP
   -Pt states the mask is uncomfortable but the one at home is a better
   fit. Pt was explained the benefits of using his CPAP continuously
   .
   # Hyperlipidemia- The patient has hyperlipidemia but no evidence of
   coronary artery disease. He has not been on aspirin because of his
   warfarin dosing.
   - Continue Simvastatin
   .
   # Hypertropic cardiomyopathy- As per recent [**Hospital1 **], preserved EF= 55-60%
   and no signs of failure.
   - Continue Metoprolol
   .
   # Acute Renal Failure: etiology likely due to arrhythmia. Cr was 1.4 at
   OSH, 1.1 at admission, 1.2 on [**8-30**]. Urine lytes ordered, FeNa=0.6,
   indicating pre-renal failure likely [**2-28**] volume depletion.
   - ARF now resolved, Cr now down to 1
   - Monitor UOP
   -Pt is urinating well
   .
   # Depression/Anxiety:
   - Continue Effexor 75mg PO Daily (although this drug does prolong Qt
   interval)
   - Continue Clonazepam 0.5mg PO TID PRN
   - Ambien prn Sleep
   - Ativan PRN for anxiety
   .
   FEN: Cardiac Diet
   ACCESS: 2 PIV's
   PROPHYLAXIS:
   -DVT ppx with coumadin/ heparin SC
   -Pain management with Tylenol, Fentanyl prn
   -Bowel regimen with Colace, Senna, MIralax
   -Famotidine
   CODE: Full
   CONTACT: [**First Name8 (NamePattern2) 31**] [**Known lastname 9222**] [**Telephone/Fax (1) 9227**]; [**Name (NI) 815**] [**Name (NI) 9228**] (Girlfriend)
   [**Telephone/Fax (1) 9229**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-8-30**] 06:34 PM
   20 Gauge - [**2118-8-31**] 02:00 AM
   Prophylaxis:
   DVT: heparin IV/coumadin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight course.continues to remain in AFwith rec VT since
   going back into AF
   Examined Pt.
   Agree with Dr.[**Last Name (STitle) 9234**]
s note
   Spent 40 mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2118-9-3**] 09:53 ------

2118-09-04 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did well yesterday.  Ambulated.  Patient comfortable.
   Allergies:
   Monosodium Glutamate
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-9-3**] 08:00 AM
   Coumadin (Warfarin) - [**2118-9-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-4**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36
C (96.8
   HR: 70 (59 - 92) bpm
   BP: 102/69(77) {90/43(53) - 127/84(96)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.1 kg (admission): 92.7 kg
   Height: 74 Inch
             Total In:
                                                                  2,186 mL
                                                                    232 mL
   PO:
                                                                  1,780 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    406 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    675 mL
   Urine:
                                                                  1,625 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    561 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GENERAL: Pleasant gentleman in NAD, appears comfortable. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  No lympthadenopathy
   NECK: Supple with JVP of 5 cm.
   CARDIAC: PMI displaced laterally, located in 5th intercostal space. S1
   & S2 regular rate  with a blowing systolic murmur heard best at apex.
   No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NT/ND. No HSM or tenderness. BS present in all
   quadrants
   EXTREMITIES: No c/c/e. Right thigh hematoma at cath site. Nontender, no
   fluctuation.  no hematoma or bruit of left thigh.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP/PT 1+
   Labs / Radiology
   384 K/uL
   12.4 g/dL
   103 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.5 mEq/L
   16 mg/dL
   106 mEq/L
   141 mEq/L
   35.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2118-8-31**]  04:30 AM
                             [**2118-8-31**]  01:32 PM
                             [**2118-9-1**]  04:12 AM
                             [**2118-9-1**]  11:59 AM
                             [**2118-9-2**]  06:12 AM
                             [**2118-9-2**]  04:38 PM
                             [**2118-9-3**]  06:09 AM
                             [**2118-9-4**]  02:43 AM
   WBC
   11.7
   12.4
   9.5
   10.2
   12.0
   Hct
   36.5
   36.0
   33.0
   35.6
   33.4
   35.0
   35.4
   Plt
   272
   274
   246
   315
   384
   Cr
   1.1
   1.0
   1.3
   1.2
   1.3
   1.3
   Glucose
   107
   111
   87
   111
   91
   103
   Other labs: PT / PTT / INR:18.6/82.1/1.7, LDH:260 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   59 yo M x-fer from CMC w/ repeated episodes of VT resulting in multiple
   ICD firings, s/p EPS with successful ablation of one VT focus, but not
   all foci requiring multiple defibrillations during procedure, initially
   on lidocaine ggt and amiodarone, now just on amiodarone.
   .
   # Ventricular tachycardia: The patient has a [**1-28**] year history of NSVT
   with Sustained Ventricular tachycardia episodes and is s/p ICD
   placement. He was transferred from CMC after an unsuccessful ablation
   ([**8-24**]) and unsuccessful initiation of sotalol to control his rate.
   Initially was on lidocaine ggt, EP wanted drip off for study, but pt
   went back into VT, so drip was restarted. [**8-30**] he received 200mg
   lidocaine at 4- 50mg boluses with rate of ggt increased from 1mg/min to
   2mg/min, currently off. There are two distinct morphologies of his
   arrythmia, likely one coming from lateral ventricle and one from mitral
   valve area (he has MVP and MS [**First Name (Titles) **] [**Last Name (Titles) **]).
   - lidocaine drip stopped [**2118-8-31**]
   - EPS [**8-30**] was performed by Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) **] with
   successful ablation of one but not all foci, patient required
   defibrillation several times during procedure
   - Had a run of symptomatic sustained VT following the procedure and
   another run the AM of [**8-31**] which broke on its own without defibrillation
   - Went back into A fib yesterday which triggered some non-sustained
   polymorphic VT
   - INR =1.7 this AM, so on heparin IV gtt as bridge to Coumadin 5mg
   (will give extra 7.5 mg dose today)
   - change metoprolol 75 mg TID to sustained release 100 mg in AM
   - change diltiazem to SR 240 mg qdaily in PM (for triggered ectopy)
   - Aggressive magnesium repletion (on magnesium oxide)
   - Continue amiodarone 400mg TID taper to 400mg [**Hospital1 7**] after one week at
   TID
   - Hold home verapamil
   - Telemetry
   - Nitro prn chest pain
   - Maintain K>4, Mg>2
   - Obtain 12 lead EKG if he goes back into VT
   .
   # Anemia:  Hematocrit initially dropped from 44 on admission to 33
   -Likely hemodilution.  Repeat Hct this AM is 35.
   -Haptoglobin of 251 which does not support a hemolysis
   - stool guaiac negative
   .
   # Atrial Fibrillation: The patient has defibrillated back into sinus
   rhythm and will be started on heparin IV gtt with bridge to Coumadin.
   Will change coumadin dose to 5mg today as INR was subtherapeutic at 1.7
   this AM.
   - Cont metoprolol
   - heparin IV-> coumadin 5mg
   - will give extra 7.5 mg coumadin dose today
   .
   #OSA- restarted on home CPAP
   -Pt states the mask is uncomfortable but the one at home is a better
   fit. Pt was explained the benefits of using his CPAP continuously
   .
   # Hyperlipidemia- The patient has hyperlipidemia but no evidence of
   coronary artery disease. He has not been on aspirin because of his
   warfarin dosing.
   - Continue Simvastatin
   .
   # Hypertropic cardiomyopathy- As per recent [**Hospital1 **], preserved EF= 55-60%
   and no signs of failure.
   - Continue Metoprolol
   .
   # Acute Renal Failure: etiology likely due to arrhythmia. Cr was 1.4 at
   OSH, 1.1 at admission, 1.2 on [**8-30**]. Urine lytes ordered, FeNa=0.6,
   indicating pre-renal failure likely [**2-28**] volume depletion.
   - ARF now resolved, Cr now down to 1.3
   - Monitor UOP
   -Pt is urinating well
   .
   # Depression/Anxiety:
   - Continue Effexor 75mg PO Daily (although this drug does prolong Qt
   interval)
   - Continue Clonazepam 0.5mg PO TID PRN
   - Ambien prn Sleep
   - Ativan on home dose
   .
   FEN: Cardiac Diet
   ACCESS: 2 PIV's
   PROPHYLAXIS:
   -DVT ppx with coumadin/ heparin SC
   -Pain management with Tylenol, Fentanyl prn
   -Bowel regimen with Colace, Senna, MIralax
   -Famotidine
   CODE: Full
   CONTACT: [**First Name8 (NamePattern2) 31**] [**Known lastname 9222**] [**Telephone/Fax (1) 9227**]; [**Name (NI) 815**] [**Name (NI) 9228**] (Girlfriend)
   [**Telephone/Fax (1) 9229**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-9-3**] 12:00 AM
   Prophylaxis:
   DVT: coumadin, IV heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor
   ------ Protected Section ------
   Attending
s Note
   Reviewed data, examined Pt.
   Agree with plan of Rx.
   Maybe transferred to floor.
   Spent 40 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2118-9-4**] 10:33 ------